US05041460
a. Methyl 4-[2-chloro-5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate.
N-Chlorosuccinimide (0.437 g) was added in one portion to a stirred solution of methyl 4-[5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate (1.3 g) in dry dichloromethane (25 ml), under a nitrogen atmosphere. After 10 minutes, the solvent was evaporated, and the product purified by flash chromatography, eluting with 3:7 ethyl acetate:toluene, to give, after crystallization from ethyl acetate, methyl 4-[2-chloro-5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3methoxybenzoate (45%) as a white solid; mp 148° C.; NMR (300 MHz, DMSO-d6). 0.96 (d, 3H, CH3), 2.50-2.60 (m, 1H), 2.68 (s, 6H), 2.75-2.85 (m, 1H), 3.68-3.86 (m, 7H), 3.93 (s, 3H, OCH3), 4.02 (s, 2H), 5.87 (d, 1H, NH), 6.95-7.05 (m, 2H), 7.19 (s, 1H), 7.37 (d, 1H), 7.40-7.55 (m, 2H).

reactant | N-Chlorosuccinimide | 0.437 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methyl 4-[5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 1.3 g | CN(C(NC(CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC)C)=O)C | C25H31N3O4
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Methyl 4-[2-chloro-5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate | ClC=1N(C2=CC=C(C=C2C1CC1=C(C=C(C(=O)OC)C=C1)OC)CC(C)NC(=O)N(C)C)C | C25H30ClN3O4
